US04540699
(vii) 2-Nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one
To a stirred solution of sodium (6.77 g) in methanol (120 ml) was added nitroguanidine (27.25 g. containing 25% water) and methanol (30 ml). The mixture was refluxed for 45 minutes and then was added dropwise ethyl α-formyl-β-(N-n-butyl-2-oxo-4-pyridyl)propionate (54.85 g) in methanol (150 ml) over 90 minutes. The reaction mixture was refluxed for 23 hours and evaporated under reduced pressure to give an oil. This oil was dissolved in water (200 ml) and extracted with chloroform (3×65 ml). The combined chloroform extracts were washed with water (2×35 ml). The combined aqueous layer and aqueous washings were taken to pH 5 with glacial acetic acid whereupon a brown oil came out of solution. This was dissolved with warming in isopropanol (75 ml) and cooled at 0° C. overnight to yield after filtration, washing and drying in vacuo 2-nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one as a solid (19.46 g), recrystallisation from aqueous acetic acid gave material with m.p. 198°-201° C.

reactant | sodium | 6.77 g | [Na] | Na
reactant | nitroguanidine | 27.25 g | [N+](=O)([O-])NC(=N)N | CH4N4O2
reactant | ethyl α-formyl-β-(N-n-butyl-2-oxo-4-pyridyl)propionate | 54.85 g | C(=O)C(C(=O)OCC)CC1=CC(N(C=C1)CCCC)=O | C15H21NO4
solvent | methanol | 120 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
solvent | water | 200 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 2-Nitroamino-5-(1-n-butyl-2-oxopyridin-4-ylmethyl)pyrimidin-4-one | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC1=CC(N(C=C1)CCCC)=O | C14H17N5O4
